US09255090B2
Synthesis of (±)-Ethyl 2-(3-(5-fluoro-1,2,3,4-tetrahydroisoquinolin-8-yl)-4-methoxyphenyl)propanoate (C21H24NO3F, MW=357.17)
To a solution under N2 of (±)-8-[5-(1-ethoxycarbonyl-ethyl)-2-methoxy-phenyl]-5-fluoro-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester (57 mg, 0.12 mmol, 1 eq.) in EtOH (40 mL), palladium on activated carbon (10 wt. %, 3.2 mg) was added. The flask was evacuated and backfilled with H2 (3×). The black suspension was stirred at 50° C. under an H2-atmosphere for 18 hours. The suspension was filtered through Celite, the Celite rinsed with EtOH. The filtrate was concentrated in vacuo to afford the title product as a yellow oil. The product was used without further purification.

reactant | (±)-8-[5-(1-ethoxycarbonyl-ethyl)-2-methoxy-phenyl]-5-fluoro-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester | 0.12 mmol, 57 mg, 1 eq. | C(C1=CC=CC=C1)OC(=O)N1CC2=C(C=CC(=C2CC1)F)C1=C(C=CC(=C1)C(C)C(=O)OCC)OC | C29H30FNO5
solvent | EtOH | 40 mL | CCO | C2H6O
catalyst | palladium on activated carbon | 3.2 mg | [Pd] | Pd
product | (±)-Ethyl 2-(3-(5-fluoro-1,2,3,4-tetrahydroisoquinolin-8-yl)-4-methoxyphenyl)propanoate | FC1=C2CCNCC2=C(C=C1)C=1C=C(C=CC1OC)C(C(=O)OCC)C | C21H24FNO3
